US05235056
2,6-Diphenyl-4-piperidone Ethylene Ketal
To a stirred suspension of 10.0 g (40 mmol) of 2,6-diphenyl-4-piperidone in 150 mL of ethylene glycol chilled to 0° C. is added 35 mL (275 mmol) of chlorotrimethylsilane over a one-hour period. The reaction mixture is warmed to room temperature and stirred for 15 hours. The reaction mixture is then quenched by carefully pouring it into 600 mL of saturated aqueous sodium bicarbonate solution. The product is extracted into ether (4×200 mL). The ether solution is dried over anhydrous sodium sulfate and the solvent is removed under reduced pressure. The residue is recrystallized from methanol to yield 8.1 g (69%) of the title compound as a white solid, melting at 125°-127° C.

reactant | 2,6-diphenyl-4-piperidone | 40 mmol, 10.0 g | C1(=CC=CC=C1)C1NC(CC(C1)=O)C1=CC=CC=C1 | C17H17NO
reactant | chlorotrimethylsilane | 275 mmol, 35 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethylene glycol | 150 mL | C(CO)O | C2H6O2
product | 2,6-Diphenyl-4-piperidone Ethylene Ketal | 8.1 g, 69% | C1COC2(CC(NC(C2)C2=CC=CC=C2)C2=CC=CC=C2)O1 | C19H21NO2
